* gnetlist -g spice-sdb -o spice.net diode.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./diode.mod vvvvvvvv
.MODEL DMOD D (IS=1E-17 RS=20 CJO=1P TT = 50N)

*^^^^^^^^  End of included SPICE model from ./diode.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.options TEMP=25
.INCLUDE ./Simulation.cmd
VINPUT Vin 0 dc 1.6V ac 10MV SIN(0 1MV 1kHZ)
VDUMMY 1 0 dc 0V
R1 1 Vout 1k
D1 Vin Vout DMOD 
.end
